US04282372
To a solution of 3-butyl-4-penten-2-one (14.0 g) in dichloromethane (100 ml) was added m-chloroperbenzoic acid (26.0 g) at 0° to 5° C., and the mixture was stirred at the same temperature for 1 hour and then at 20° C. for 12 hours. The reaction solution was then poured into water, followed by phase separation. The dichloromethane layer was washed with an aqueous sodium hydrogen carbonate solution and then with an aqueous sodium sulfite solution, followed by concentrating. The residue was distilled to obtain 13.3 g of 3-butyl-4,5-epoxy-pentan-2-one.

reactant | 3-butyl-4-penten-2-one | 14.0 g | C(CCC)C(C(C)=O)C=C | C9H16O
reactant | m-chloroperbenzoic acid | 26.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-butyl-4,5-epoxy-pentan-2-one | 13.3 g | C(CCC)C(C(C)=O)C1CO1 | C9H16O2
